Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Right upper quadrant abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old ___ woman with history of asthma, CAD (s/p 
inferior NSTEMI with stent placement in L circumflex and RCA in 
___, recent NSTEMI), HTN, HLD, and PVD presents with sharp non- 
radiating RUQ abdominal pain. Pain began approximately 2 days 
ago and has been getting progressively more severe. ___ has 
a known history of gallstones. ___ states pain is constant 
in nature without radiation. She denies fevers, chills, cough or 
shortness of breath. She denies normal nausea, vomiting, fevers 
or chills. She endorses worsening pain with deep breaths and 
states pain is somewhat similar to her recent MI.  She also 
endorses decreased intake over the past few weeks due to 
decreased appetite.  ___ was seen by PCP who referred the 
___ to the ED to rule out acute cholecystitis. Of note 
___ was seen in the ED on ___ for nausea, vomiting and 
constipation.  CT of the abdomen at that time showed only 
constipation. She was started on a bowel regimen and has since 
had, last BM in the ED today was hard pieces
. 
In the ED, initial VS: P92, BP 134/62, R20, 98% RA.  She had 
taken a full dose aspirin at home. She was given IV zofran, 
morphine for pain control and zosyn. Labs were significant for 
an elevated alk phos, normal bilirubin. Troponin was negative x 
1. EKG demonstrated increased ST segment depressions in leads 
___. She was seen by ACS who felt presentation was consistent 
with acute cholecystitis however given recent MI she is not a 
surgical candidiate and would likely require placement of 
percutaneous drain.  RUS was initially concerning for acute 
cholecystitis. However imaging was subsequently read by the 
attending who did not feel imaging was impressive. 
.  
Currently, ___ notes continued right sided abdominal and 
chest pain reproducible with palpation. She denies other 
symptoms.   
.  
ROS: Denies fever, chills, night sweats, headache, vision 
changes, rhinorrhea, congestion, sore throat, cough, shortness 
of breath,  nausea, vomiting, diarrhea.
 
Past Medical History:
- Asthma  
- CAD, status post inferior NSTEMI with stent placement in L 
circumflex and RCA in ___ myocardial perfusion scan (___) 

- Medium size infarct involving the inferolateral wall with 
minimal ___ ischemia. Severe inferolateral hypokinesis. 

EF: 64%); (Cath ___: Patent PRCA stent, 40% mid vessel stenosis. 

Echo ___: Mild regional LV dysfunction with inferior lateral 
hypokinesis, EF 50%, ___ AR, ___  
- Hypertension  
- Peripheral vascular disease  
- Adjustment with depressed mood  
- s/p right eye cataract surgery (R eye ___ at ___)  
- s/p L eye cataract surgery ___ 
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
ADMISSION EXAM
VS - Temp 96.7 F, BP 104/51 , HR 74 , R 18 , ___ 98% RA  
GENERAL - ___ elderly femalw in NAD, comfortable, 
appropriate  
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear  
NECK - supple, no thyromegaly
LUNGS - CTA bilat, no r/rh/wh, poor respiratory effort due to 
pain 
HEART - PMI ___, RRR, no MRG, nl ___ 
CHEST- TTP of Right chest wall  
ABDOMEN - hypoactive bowel sounds, + distension, dull to 
percussion, mild tenderness to palpation in RUQ, no 
rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs)
SKIN - no rashes or lesions   
NEURO - awake, A&Ox3, CNs ___ grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout 
.
DISCHARGE EXAM
VS - 97.8 126/50 61 19 93 RA 
GENERAL - ___ elderly female in NAD, comfortable, 
appropriate  
LUNGS - CTA bilat, no r/rh/wh 
HEART - RRR, nl ___ 
CHEST- TTP of right chest wall; similar to before  
ABDOMEN - soft, no TTP/guarding, +BS
NEURO - awake, A&Ox3, CNs ___ grossly intact
 
Pertinent Results:
LABORATORY DATA
CBC
___ 12:55PM BLOOD ___ 
___ Plt ___
___ 12:55PM BLOOD ___ 
___
___ 07:10AM BLOOD ___ 
___ Plt ___
.
CHEMISTRY
___ 12:55PM BLOOD ___ 
___
___ 07:10AM BLOOD ___ 
___
.
LFTS
___ 12:55PM BLOOD ___
___ 12:55PM BLOOD ___
.
CARDIAC ENZYMES
___ 12:55PM BLOOD cTropnT-<0.01
___ 07:05PM BLOOD cTropnT-<0.01
.
MISC
___ 02:40PM BLOOD ___
.
URINE STUDIES
___ 02:25PM URINE ___ Sp ___
___ 02:25PM URINE ___ 
___
.
MICROBIOLOGY
Blood cultures x 2- pending
URINE CULTURE (Final ___:    <10,000 organisms/ml.
.
STUDIES 
RUQ Ultrasound
FINDINGS: The ___ has a positive ___ sign. A distended 
gallbladder is seen with multiple gallstones. No impact stones 
are seen. Common bile duct measures 0.25 mm. There is 
pericholecystic fluid seen tracking along the gallbladder. The 
liver is of normal echotexture and limited views are 
unremarkable.
 
IMPRESSION: Findings concerning for early acute cholecystitis.
.
EKG: sinus at 72 bpm increased ST segment depressions in V5, V6 
with new T wave inversions
.
Chest xray- IMPRESSION: Stable cardiomegaly. Increased right 
basilar atelectasis and possible tiny pleural effusion. Please 
refer to subsequent right upper quadrant ultrasound for further 
details
.
Rib xray- No rib fractures are identified. Mild atelectasis is 
present at the right base, somewhat more marked than on the 
prior chest ___, is not thought to be of clinical 
significance. No pneumothorax is present. 
IMPRESSION: No fracture is identified.
.
Gallbladder Scan
INTERPRETATION: Serial images over the abdomen show prompt 
uptake of tracer into the hepatic parenchyma in a homogeneous 
pattern.
 
At 52 minutes, the small bowel is visualized with tracer 
activity noted in the gallbladder at 11 minutes.
IMPRESSION: Normal hepatobiliary scan. No evidence of acute 
cholecystitis.
 
Brief Hospital Course:
PRIMARY REASON FOR ADMISSION
___ year old ___ woman with history of asthma, CAD (s/p 
inferior NSTEMI with stent placement in L circumflex and RCA in 
___, recent NSTEMI), HTN, HLD, and PVD presents with RUQ 
abdominal pain concerning for early acute cholecystitis 
.
# Abdominal/Chest Pain- As above the ___ present from her 
doctors office with ___ right upper quadrant abdominal pain 
concerning for acute cholecystitis. ___ was seen by surgery 
in the ED who felt presentation was consistent with 
cholecystitis however felt she was not a candidate for surgery 
given her recent MI.  They recommended and percutaneous 
cholecystostomy. In the ED she was given morphine for pain 
control and Zosyn. Right upper quadrant ultrasound was initially 
read as concerning for early cholecystitis especially given a 
positive ___ sign.  However in discussion with the 
Radiology attending the imaging was determined to be less 
convincing. There it was recommended that she have a HIDA scan 
prior to percutaneous  cholecystostomy.  She was admitted to 
medicine where she was kept NPO and antibiotics were switched to 
ceftriaxone and Flagyl.  Initial exam was notable for mild RUQ 
tenderness as well as right chest wall tenderness concerning for 
musculoskeletal pain versus fracture.  Rib films were however 
negative for fracture. Give recent history of MI presentation 
was concerning for ACS (EKG also showed increased depressions in 
___ however troponins were negative x 2. HIDA scan was 
negative ruling out acute cholecystitis.  Antibiotics were 
discontinued and the ___ diet was advanced. Ultimately pain 
was felt to be multifactorial in nature with a component of MSK 
pain in addition to constipation (see below). The ___ pain 
was controlled with scheduled Tylenol and prn tramadol. Tylenol 
was continued at the time of discharge. She was discharged with 
instructions to ___ with her PCP.
.
# Constipation- ___ seen in the ED on ___ with severe 
constipation. CT scan at that time was negative for obstruction. 
The ___ reported a small bowel movement the day prior to 
admission.  However abdomen was distended concerning for 
constipation especially given the ___ had received narcotic 
pain medications.  Her home regimen of Colace.  Senna and milk 
of magnesia were added to this regimen. The ___ has 2 bowel 
movements with improvement in pain. She was discharged on this 
regimen.
.
# Coronary artery disease- As above ___ had a recent history 
of NSTEMI 2 weeks prior to admission. Cardiac catheterization at 
that time demonstrated cardiac catheterization that showed 2 
vessel disease  and ___ restenosis of left circumflex 
artery with good FFR (0.96).  No intervention was performed. As 
above there was concern for ACS given ___ stated pain was 
somewhat consistent with previous presentation. Additionally EKG 
showed increased ST segment depression in leads V5, V6. However 
reassuringly the ___ troponins were negative x 2 and EKG 
remained stable. The ___ was continued on her home aspirin, 
plavix, atorvastatin, losartan and beta blocker.
.
# Hypertension- ___ was continued on her home beta blocker, 
losartan, and isosorbide mononitrate.
.
# Acute renal insufficiency- ___ has known renal dysfunction 
with baseline creatinine of 1.2 to 1.6.  Creatine was at 
baseline throughout this admission. 
. 
# Asthma- ___ on combivent and fluticasone as an outpatient. 
She was continued on her home fluticasone as an inpatient and at 
the time of discharge.  She was continued on PRN albuterol and 
ipratropium nebulizer treatments, which she did not require.  
Combivent inhaler was restarted on discharge.   
.
TRANSITIONAL ISSUES
- Blood cultures were pending at the time of discharge
- 2.4 cm stable left adnexal cyst and a new 1.9 cm right adnexal 
cyst noted on CT on ___. A ___ pelvic ultrasound is 
recommended for further assessment.
- ___ will ___ with her PCP
- ___ was full code throughout this hospitalization
 
Medications on Admission:
1. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day)
2. multi vitaminTablet Sig: One (1) Tablet PO DAILY (Daily). 
3. aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
4. atorvastatin 80 mg Tablet Sig: One (1) Tablet PO 
DAILY(Daily).  
5. Combivent ___ mcg/Actuation Aerosol Sig: Two (2) puffs 
Inhalation four times a day. Disp:*1 inhaler* Refills:*2*
6. metoprolol succinate 100 mg Tablet Extended Release 24 hr 
Sig: One (1) Tablet Extended Release 24 hr PO once a day.
Disp:*30 Tablet Extended Release 24 hr(s)* Refills:*2*
7. clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).Disp:*30 Tablet(s)* Refills:*2*
8. Calcium 600 + D(3) 600 mg(1,500mg) -400 unit Tablet Sig: One 
(1) Tablet PO once a day.  
9. acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain.
10. nitroglycerin 0.3 mg Tablet, Sublingual Sig: One (1) Tablet, 
Sublingual Sublingual PRN (as needed) as needed for chest pain . 

11. isosorbide mononitrate 30 mg Tablet Extended Release 24 hr 
Sig: One (1) Tablet Extended Release 24 hr PO DAILY (Daily).  
12. fluticasone 110 mcg/Actuation Aerosol Sig: Two (2)  
Inhalation twice a day.  
13. losartan 100 mg Tablet Sig: One (1) Tablet PO once a day.  
14. mirtazapine 15 mg Tablet, Rapid Dissolve Sig: One (1) 
Tablet, Rapid Dissolve PO once a day.
 
Discharge Medications:
1. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO twice 
a day as needed for constipation.  
2. multivitamin Tablet Sig: One (1) Tablet PO DAILY (Daily).
3. aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
4. atorvastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. metoprolol succinate 200 mg Tablet Extended Release 24 hr 
Sig: One (1) Tablet Extended Release 24 hr PO once a day.  
6. clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. mirtazapine 15 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
8. calcium ___ D3 600 mg(1,500mg) -400 unit 
Capsule Sig: One (1) Capsule PO once a day.  
9. Combivent ___ mcg/Actuation Aerosol Sig: Two (2)  
Inhalation four times a day as needed for shortness of breath or 
wheezing.  
10. fluticasone 110 mcg/Actuation Aerosol Sig: Two (2) 
inhalations Inhalation twice a day.  
11. nitroglycerin 0.3 mg Tablet, Sublingual Sig: One (1)  
Sublingual once a day as needed for chest pain: ___ repeat every 
5 minutes x 2.  
12. isosorbide mononitrate 30 mg Tablet Extended Release 24 hr 
Sig: One (1) Tablet Extended Release 24 hr PO once a day.  
13. magnesium hydroxide 400 mg/5 mL Suspension Sig: Thirty (30) 
ML PO Q6H (every 6 hours) as needed for constipation.
Disp:*1 bottle* Refills:*0*
14. senna 8.6 mg Tablet Sig: One (1) Tablet PO HS (at bedtime) 
as needed for constipation .
Disp:*30 Tablet(s)* Refills:*0*
15. acetaminophen 325 mg Tablet Sig: ___ Tablets PO TID (3 times 
a day).  
16. losartan 100 mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis
Abdominal Pain 

Secondary diagnoses
Diabetes

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___, 

It was a pleasure participating in your care while ___ were 
hospitalized at ___.  ___ were admitted with 
abdominal pain.  Tests did not show signs of infection, bone 
fractures, or problems with your heart or gallbladder.  

___ were also very constipated.  Medications were started to 
help ___ have a bowel movement.  

It will be important for ___ to ___ with your primary care 
physician if pain continues. 

We made the following changes changes to your medications
- START milk of magnesia
- START senna
 
Followup Instructions:
___